US08049013B2
5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 3-{2-methoxy-4-[4-oxo-2-(4-trifluoromethyl-phenyl)-4H-thiazolo[5,4-c]pyridin-5-yl]-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester (1.3 g, 2.27 mmol) in dichloromethane (12 mL) and slowly add trifluoroacetic acid (6 mL). Stir the mixture for one hour and then evaporate. Apply the residue to a 10 g SCX column with dichloromethane. Wash the column with methanol then elute the material using 1:1 dichloromethane:2N ammonia/methanol. Concentrate to give 0.909 g (85%) of the desired product as a white solid. MS/ES m/z 474.0 [M+1]+.

reactant | 3-{2-methoxy-4-[4-oxo-2-(4-trifluoromethyl-phenyl)-4H-thiazolo[5,4-c]pyridin-5-yl]-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester | 2.27 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)C(F)(F)F)=O)OC | C28H26F3N3O5S
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-trifluoromethyl-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 0.909 g, 85% | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)C(F)(F)F)=O)OC | C23H18F3N3O3S
